US05981572
2-(7-Chloro-benzofuran-4-ylmethyl)-malonic acid diethyl ester
Diethyl malonate (1.7 ml) was added dropwise to a suspension of sodium hydride (60%; 0.3 g) in dry THF (40 ml) at 0° under nitrogen. The mixture was allowed to warm to room temperature over 15 mins. Then a solution of 4-bromomethyl-7-chloro-benzofuran in dry THF (10 ml) was added in one portion and the mixture stirred for 1 h; then partitioned between water (100 ml) and ethyl acetate (3×50 ml). The combined organic extracts were washed with brine (50 ml), dried (MgSO4) and evaporated to give the title compound as a pale yellow oil (2.466 g)

reactant | Diethyl malonate | 1.7 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 4-bromomethyl-7-chloro-benzofuran | BrCC1=CC=C(C2=C1C=CO2)Cl | C9H6BrClO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(7-Chloro-benzofuran-4-ylmethyl)-malonic acid diethyl ester | 2.466 g | C(C)OC(C(C(=O)OCC)CC1=CC=C(C2=C1C=CO2)Cl)=O | C16H17ClO5
